US06355653B1
A solution of 0.16 g (0.00035 mol) 7-(6-chloro-pyridin-3-yl)-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine in 80 ml isopropylamine were stirred at 150° C. for 150 hours in an autoclav. Removal of the amine and chromatography on silicagel with dichloro-methane/methanol 9/1 gave 0.05 g (29%) 7-(6-isopropylamino-pyridin-3-yl)-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine as beige solid, MS m/e (%): 346 (M+H+,100).

reactant | 7-(6-chloro-pyridin-3-yl)-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 0.00035 mol, 0.16 g | ClC1=CC=C(C=N1)C1=CC=2N(C(=C1)N)N=C(N2)C2=NC=CC=C2 | C16H11ClN6
solvent | isopropylamine | 80 ml | C(C)(C)N | C3H9N
product | 7-(6-isopropylamino-pyridin-3-yl)-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 0.05 g, 29% | C(C)(C)NC1=CC=C(C=N1)C1=CC=2N(C(=C1)N)N=C(N2)C2=NC=CC=C2 | C19H19N7
